US04992504
Preparation of 1-n-hexylthio-5,5-dimethyl-2,4-hexanedione
250 ml of toluene and 99 g (0.55 mol) of sodium methylate solution (30% in methanol) are initially placed in a flask equipped with a thermometer, a stirrer, a dropping funnel and a distillation bridge with receiver, and 108.4 g of a methanol/toluene mixture are distilled off until the reaction temperature reaches 109° C. 60 g (0.6 mol) of pinacolone are then added dropwise at the same temperature and 95 g (0.5 mol) of methyl n-hexylthioacetate are added dropwise in the course of 20 minutes. In the course of this a further 32.5 g of a methanol/toluene mixture are distilled off. The mixture is then stirred for a further 35 minutes at 106° C. and is worked up analogously to Example 18. The residue is concentrated and then fractionated in vacuo.

reactant | sodium methylate | 0.55 mol, 99 g | C[O-].[Na+]
reactant | pinacolone | 0.6 mol, 60 g | CC(C(C)(C)C)=O | C6H12O
reactant | methyl n-hexylthioacetate | 0.5 mol, 95 g | C(CCCCC)CC(=S)OC | C9H18OS
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-n-hexylthio-5,5-dimethyl-2,4-hexanedione | C(CCCCC)SCC(CC(C(C)(C)C)=O)=O | C14H26O2S
